US09085555B2
(2S,4R)-1-{2-[3-Acetyl-6-(1H-tetrazol-5-yl)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
To a suspension of (2S,4R)-1-[2-(3-acetyl-6-cyano-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide (prepared as described in Example 616 (45.0 mg, 0.09 mmol) in water (2 mL) and isopropanol (1 mL) at RT were added sodium azide (24.0 mg, 0.360 mmol) and zinc bromide (40.0 mg, 0.180 mmol). The mixture was heated to 130° C. for 10 h in a microwave apparatus (Personnal Chemistry, Biotage). After cooling to RT, a 6N HCl solution was added to the mixture, followed by extraction with EtOAc (3×). The combined organics were washed with brine, dried (phase separator) and concentrated in vacuo. Purification of the residue by preparative HPLC (Waters Sunfire, C18-ODB, 5 μm, 30×100 mm, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) afforded after lyophilization the title compound as solid. MS (LC/MS): 542.0 [M+H]+; tR (HPLC conditions k): 3.15 min.

reactant | (2S,4R)-1-[2-(3-acetyl-6-cyano-indol-1-yl)-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)C#N)C(C)=O)=O)C=CC1)F | C25H21ClF2N4O3
reactant | sodium azide | 0.360 mmol, 24.0 mg | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
catalyst | zinc bromide | 0.180 mmol, 40.0 mg | [Br-].[Zn+2].[Br-]
product | (2S,4R)-1-{2-[3-Acetyl-6-(1H-tetrazol-5-yl)-indol-1-yl]-acetyl}-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)C2=NN=NN2)C(C)=O)=O)C=CC1)F | C25H22ClF2N7O3
